US05137895
A suspension of 60% sodium hydride/oil dispersion (1.00 g, 0.025 mole) in anhydrous dimethylformamide (40 ml) under nitrogen was treated with 4-amino-5-chloro-2-hydroxybenzoic acid, methyl ester (4.03 g, 0.020 mole), stirred for 30 minutes, then treated with 2-bromoethyl methyl ether (3.48 g, 0.025 mole). The mixture was heated to 95°±5° C. for 1.5 hours, then cooled and added to water (250 ml). The aqueous suspension was filtered, and the solid was washed with water, air dried, collected, and recrystallized from ether/hexane to afford 2.75 g (53%) of 4-amino-5-chloro-2-(2-methoxyethoxy)benzoic acid methyl ester; mp 121.0°-122.5° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-amino-5-chloro-2-hydroxybenzoic acid, methyl ester | 0.020 mole, 4.03 g | NC1=CC(=C(C(=O)OC)C=C1Cl)O | C8H8ClNO3
reactant | 2-bromoethyl methyl ether | 0.025 mole, 3.48 g | COCCBr | C3H7BrO
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-2-(2-methoxyethoxy)benzoic acid methyl ester | 2.75 g, 53% | COC(C1=C(C=C(C(=C1)Cl)N)OCCOC)=O | C11H14ClNO4
